US05360802
Step 1: 1-(Methylsulphonylaminocarbonyl)-3-nitrobenzene
A solution of methylsulphonamide (5.37 g, 57 mmol) in anhydrous dichloromethane (100 ml), cooled to 0° C. was treated with triethylamine (7.9 ml, 57 mmol) followed by a solution of 3-nitrobenzoyl chloride (10 g, 54 mmol) in anhydrous dichloromethane (100 ml) dropwise. After stirring for 2 h at 0° C., the reaction mixture was washed with 1M HCl (100 ml). The precipitate which formed was collected by filtration and triturated with diethyl ether and was then recrystallised from methanol to afford the title compound (4.3 g, 31%) as a colourless crystalline solid. mp 175°-178° C. 1H NMR (360 MHz, D6 -DMSO) δ 3.42 (3H, s), 7.82 (1H, dd, J=8.0 and 8.0 Hz), 8.38 (1H, d, J=8.0 Hz), 8.49 (1H, d, J=8.0 Hz), 8.80 (1 H,s).

reactant | methylsulphonamide | 57 mmol, 5.37 g | CS(=O)(=O)N | CH5NO2S
reactant | triethylamine | 57 mmol, 7.9 ml | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 54 mmol, 10 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(Methylsulphonylaminocarbonyl)-3-nitrobenzene | 4.3 g, 31% | CS(=O)(=O)NC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H8N2O5S
